US05872137
A mixture of 0.47 g of 4-chlorothiophenol, 1.33 g of 1-(3-bromopropyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene, 0.49 g of potassium carbonate and 20 ml of N,N-dimethylformamide was stirred at room temperature for 24 hours. The reaction mixture was poured into ice-water, and extracted twice with 50 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 1.24 g of 1-(3-(4-chlorophenylthio) propyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene (81% yield), nD26.0 1.6035.

reactant | 4-chlorothiophenol | 0.47 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 1-(3-bromopropyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene | 1.33 g | BrCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C12H11BrCl4O2
reactant | potassium carbonate | 0.49 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(3-(4-chlorophenylthio) propyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene | 1.24 g, 81% yield | ClC1=CC=C(C=C1)SCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C18H15Cl5O2S
